US08735362B2
Step H: 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-N-(2-ethyl-isoxazolidin-4-yl)-2-methyl-benzamide
Crude 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-N-isoxazolidin-4-yl-2-methyl-benzamide trifluoroacetic acid salt (0.16 mmol) was dissolved in MeOH (0.8 ml). Then acetaldehyde (0.090 ml, 10 equiv) was added at 0° C. under an argon atmosphere. After stirring for 1 hour at 0° C., NaBH3CN (20 mg, 2 equiv) was added. The reaction mixture was left to stir over the weekend. It was then evaporated. Flash column chromatography eluting with ethyl acetate/methanol (10/0 to 9/1) afforded 7.5 mg of the expected compound as a mixture of diastereomers. LCMS (Method E) 2.02 min, M+H 516/518. 1H-NMR (MeOD, 400 MHz): 7.70-7.53 (m, 5H), 7.52-7.37 (m, 1H), 4.92-4.85 (m, 1H), 4.40-4.22 (m, 2H), 4.00 (d, 1H), 3.83-3.62 (m, 1H), 3.29-2.52 (m, 4H), 2.43 (s, 3H), 1.16 (t, 3H).

reactant | 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-N-isoxazolidin-4-yl-2-methyl-benzamide trifluoroacetic acid salt | 0.16 mmol | FC(C(=O)O)(F)F.ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)NC2CNOC2)C=C1)C)C(F)(F)F
reactant | acetaldehyde | 0.090 ml, 10 equiv | C(C)=O | C2H4O
reactant | NaBH3CN | 20 mg, 2 equiv | [BH3-]C#N.[Na+]
solvent | MeOH | 0.8 ml | CO | CH4O
product | 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-N-(2-ethyl-isoxazolidin-4-yl)-2-methyl-benzamide | 7.5 mg | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)NC2CN(OC2)CC)C=C1)C)C(F)(F)F | C23H22Cl2F3N3O3
